US09056859B2
2-methoxy-4-[2-(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]benzonitrile
2-Methoxy-4-(prop-2-en-1-yl)benzonitrile (100 mg, 0.577 mmol) was dissolved in methanol (13 mL) and the resulting solution was cooled to −78° C. Ozone was bubbled through the solution until a blue color appeared (˜15 minutes). 1-(Piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride (178 mg, 0.577 mmol) was added, followed by sodium cyanoborohydride (363 mg, 5.77 mmol). After stirring the reaction mixture for ˜5 minutes 3 drops of acetic acid were added and the mixture was permitted to warm to rt and stir for 2 h. The reaction mixture was concentrated to dryness, dissolved in EtOAc (40 mL) and washed with brine, saturated NaHCO3 solution. The organic layer was dried over Na2SO4, filtered and concentrated to dryness. The residue was then purified by mass directed HPLC to afford the title compound. LC/MS: [(M+1)]+=432.

reactant | 2-Methoxy-4-(prop-2-en-1-yl)benzonitrile | 0.577 mmol, 100 mg | COC1=C(C#N)C=CC(=C1)CC=C | C11H11NO
reactant | 1-(Piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride | 0.577 mmol, 178 mg | Cl.N1(CCNCC1)C(CC1=CC=C(C=C1)N1N=NN=C1)=O
reactant | sodium cyanoborohydride | 5.77 mmol, 363 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 13 mL | CO | CH4O
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | 2-methoxy-4-[2-(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]benzonitrile | COC1=C(C#N)C=CC(=C1)CCN1CCN(CC1)C(CC1=CC=C(C=C1)N1N=NN=C1)=O | C23H25N7O2
